US04735940
(ba) 4.2 g of 9-chloro-2-phenyl-5,6-dihydro-3-hydroxythiazolo[2,3-a]isoquinolinium hydroxide (internal salt) were heated under reflux for 4 hours in 100 ml of toluene together with 1.32 ml of methyl propiolate. After concentration in vacuo, the residue was chromatographed on silica gel with toluene/acetone (9:1). There was obtained methyl 10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-carboxylate of m.p. 139°-141° (from ethyl acetate).

reactant | 9-chloro-2-phenyl-5,6-dihydro-3-hydroxythiazolo[2,3-a]isoquinolinium hydroxide | 4.2 g | [OH-].ClC1=CC=C2CC[N+]3=C(C2=C1)SC(=C3O)C3=CC=CC=C3
reactant | methyl propiolate | 1.32 ml | C(C#C)(=O)OC | C4H4O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-carboxylate | ClC=1C=CC2=C(C3=C(C=C(C(N3CC2)=O)C2=CC=CC=C2)C(=O)OC)C1 | C21H16ClNO3
